US04438113
Vilsmeier reagent prepared from N,N-dimethylformamide (0.46 ml) and phosphorous oxychloride (0.55 ml) was suspended in dry tetrahydrofuran (20 ml). To the suspension was added 2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer) (1.8 g) under ice-cooling with stirring and then the solution was stirred at the same temperature for an hour to prepare the activated acid solution. To the solution of 7-amino-3-cephem-4-carboxylic acid (1.1 g) and N-trimethylsilylacetamide (6.5 g) in methylene chloride (20 ml) was added the activated acid solution obtained above all at once at -20° C., and the solution was stirred at -20° C. to -10° C. for an hour. After water and ethyl acetate were added to the resultant solution, the mixed solution was adjusted to pH 7.3 with a saturated aqueous solution of sodium bicarbonate. Then the aqueous layer was adjusted to pH 2.0 with conc. hydrochloric acid, extracted with mixed solvent of ethyl acetate (100 ml) and tetrahydrofuran (50 ml). The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After removing the solvent, diisopropyl ether was added to the residue. The insoluble residue was collected by filtration to give 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer) (2.35 g), mp 145° to 149° C. (dec.).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorous oxychloride | 0.55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 1.8 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C)Cl | C12H14ClN3O6S
reactant | 7-amino-3-cephem-4-carboxylic acid | 1.1 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | N-trimethylsilylacetamide | 6.5 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.46 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.35 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C19H20ClN5O8S2
